US06544985B2
{5-Azetidin-1-yl-4-chloro-2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-phenyl}-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-azetidin-1-yl-4-chloro-phenyl)-carbamic acid tert.-butyl ester (Example J16) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example K3) according to the general procedure M. Obtained as a yellow solid (142 mg).

reactant | (2-amino-5-azetidin-1-yl-4-chloro-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCC1)Cl)N)=O | C14H20ClN3O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
product | {5-Azetidin-1-yl-4-chloro-2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCC1)Cl)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C23H24ClN5O4
